US07700638B2
7-Amino-1-phenyl-5-trifluoromethylbenzimidazole
This was prepared in analogy with 7-amino-5-cyano-1-phenylbenzimidazole using 4-chloro-3,5-dinitrobenzotrifluoride as the starting material (11 g, 75%)

reactant | 7-amino-5-cyano-1-phenylbenzimidazole | NC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C#N | C14H10N4
reactant | 4-chloro-3,5-dinitrobenzotrifluoride | ClC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-] | C7H2ClF3N2O4
product | 7-Amino-1-phenyl-5-trifluoromethylbenzimidazole | NC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C14H10F3N3
